US06391887B1
B) 1,2,3,3a,5,9b-Hexahydrocyclopenta[c]quinoline-4-thione
1,2,3,3a,5,9b-Hexahydrocyclopenta[c]quinolin-4-one (153 mg, 0.82 mmol) and Lawesson's reagent (363 mg, 0.9 mmol) are stirred in dimethoxyethane (20 ml) at room temperature. After 3 hours, another portion of Lawesson's reagent (363 mg, 0.9 mmol) is added to it. After 3 hours, the batch is concentrated by evaporation, and the residue is purified by column chromatography on silica gel (eluant: hexane-ethyl acetate).

reactant | 1,2,3,3a,5,9b-Hexahydrocyclopenta[c]quinolin-4-one | 0.82 mmol, 153 mg | C1CCC2C(NC=3C=CC=CC3C21)=O | C12H13NO
reactant | Lawesson's reagent | 0.9 mmol, 363 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | Lawesson's reagent | 0.9 mmol, 363 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | 1,2,3,3a,5,9b-Hexahydrocyclopenta[c]quinoline-4-thione | C1CCC2C(NC=3C=CC=CC3C21)=S | C12H13NS
